US08022192B2
To a solution of 4-benzyl-1,2-dihydro-5-isopropyl-1-propionyl-3H-pyrazol-3-one (1.25 g) in acetonitrile (25 mL) were added potassium carbonate (0.951 g) and 2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyl bromide (2.79 g) under stirring at room temperature. In addition, the mixture was heated to 50° C. and stirred for 3 hours. After the completion of the reaction, the insoluble materials were removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=20/1) to give 4-benzyl-5-isopropyl-1-propionyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyl-oxy)-1H-pyrazole (3.00 g).

reactant | 4-benzyl-1,2-dihydro-5-isopropyl-1-propionyl-3H-pyrazol-3-one | 1.25 g | C(C1=CC=CC=C1)C=1C(NN(C1C(C)C)C(CC)=O)=O | C16H20N2O2
reactant | potassium carbonate | 0.951 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyl bromide | 2.79 g | C(C(C)(C)C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C(C)(C)C)=O)OC(C(C)(C)C)=O)COC(C(C)(C)C)=O)Br | C26H43BrO9
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | 4-benzyl-5-isopropyl-1-propionyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyl-oxy)-1H-pyrazole | 3.00 g | C(C1=CC=CC=C1)C=1C(=NN(C1C(C)C)C(CC)=O)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O | C42H62N2O11
